US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4,5-dimethyl-thiazole-2-carbonyl)-1H-quinolin-4-one
585 mg (5.17 mmol) of 4,5-dimethylthiazole was dissolved in 10 mL of anhydrous THF and cooled down to −78° C. 2.07 mL of 2.5 M BuLi in hexanes was added dropwise, followed after 15 minutes by 1.0 g of anhydrous magnesium bromide. The solution was warmed up to rt. The final compound was prepared from 120 mg (0.30 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2 mL THF and 1.64 mL of the thiazole salt solution. Yield: 13 mg of a white solid. LC-MSD, m/z for C21H16BrN3O2S [M+H]+=454.0, 456.0; HPLC retention time: 2.2 min.

reactant | 4,5-dimethylthiazole | 5.17 mmol, 585 mg | CC=1N=CSC1C | C5H7NS
reactant | BuLi | 2.5 M, 2.07 mL | [Li]CCCC
reactant | magnesium bromide | 1.0 g | [Br-].[Mg+2].[Br-]
reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.30 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | thiazole | 1.64 mL | S1C=NC=C1 | C3H3NS
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4,5-dimethyl-thiazole-2-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1SC(=C(N1)C)C | C21H16BrN3O2S
